US08541421B2
Dibenzylmalonate (7.75 mL, 31.6 mmol) was added slowly to a suspension of 60% sodium hydride in mineral oil (1.41 g, 35.3 mmol) in anhydrous DMF (100 mL) at −20° C. under nitrogen. After stirring at room temperature for 30 minutes, isatoic anhydride (5.0 g, 30.7 mmol) was added, and the reaction was heated at 120° C. for 1 hour. The reaction was then cooled to −50° C. and oxalyl chloride (10.7 mL, 123 mmol) was slowly added. The reaction mixture was stirred at room temperature for 2 hours then poured into aqueous NaCl (10%, 750 mL) at 0° C., and the resultant precipitate was filtered out. The precipitate was dissolved in dichloromethane, dried over MgSO4, filtered and evaporated under reduced pressure. Diethyl ether was added to the residue, and the resultant solid was collected to give benzyl 4-chloro-2-oxo-1,2-dihydroquinoline-3-carboxylate (3.56 g, 37% yield) which was used without further purification. MS 314 (MH+).

reactant | Dibenzylmalonate | 31.6 mmol, 7.75 mL | C(C1=CC=CC=C1)C(C(=O)[O-])(C(=O)[O-])CC1=CC=CC=C1
reactant | sodium hydride | [H-].[Na+]
reactant | isatoic anhydride | 30.7 mmol, 5.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | oxalyl chloride | 123 mmol, 10.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NaCl | 750 mL | [Na+].[Cl-]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | benzyl 4-chloro-2-oxo-1,2-dihydroquinoline-3-carboxylate | 3.56 g, 37% yield | ClC1=C(C(NC2=CC=CC=C12)=O)C(=O)OCC1=CC=CC=C1 | C17H12ClNO3
